US06727264B1
N-(3-{1-[(2,2-DIMETHYL- 3,4-DIHYDRO-2H-CHROMEN-6-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 2,2-dimethyl-6-chromanecarbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 421.2 (M+H)+.

reactant | 2,2-dimethyl-6-chromanecarbaldehyde | CC1(OC2=CC=C(C=C2CC1)C=O)C | C12H14O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(2,2-DIMETHYL- 3,4-DIHYDRO-2H-CHROMEN-6-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CC1(OC2=CC=C(C=C2CC1)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C | C27H36N2O2
